US08686000B2
Preparation of methyl 4-{[(2-iodobenzyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate
2 g (12.64 mmol) of methyl 4-amino-1,3-thiazole-5-carboxylate were dissolved together with 5.1 ml (63.2 mmol) NEt3 in 20 ml of dioxane, and 4.4 g (13.9 mmol) of (2-iodophenyl)methanesulfonyl chloride were added at room temperature. The reaction mixture was stirred at RT for 5 h. Then 40 ml of water were added and the mixture was extracted repeatedly with ethyl acetate. The combined organic phases were washed with 2N HCl, dried and concentrated. The residue was purified by means of column chromatography (SiO2, gradient ethyl acetate/n-heptane 10:90 to 75:25). This gave 4.3 g of methyl 4-{[(2-iodobenzyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate.

reactant | methyl 4-amino-1,3-thiazole-5-carboxylate | 12.64 mmol, 2 g | NC=1N=CSC1C(=O)OC | C5H6N2O2S
reactant | NEt3 | 63.2 mmol, 5.1 ml | CCN(CC)CC | C6H15N
reactant | (2-iodophenyl)methanesulfonyl chloride | 13.9 mmol, 4.4 g | IC1=C(C=CC=C1)CS(=O)(=O)Cl | C7H6ClIO2S
reactant | water | 40 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | methyl 4-{[(2-iodobenzyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate | IC1=C(CS(=O)(=O)NC=2N=CSC2C(=O)OC)C=CC=C1 | C12H11IN2O4S2
